US06833462B2
A 500 ml flask was flushed with nitrogen to displace the air with nitrogen, and was charged with 43.0 g (0.5 mol) of methacrylic acid, 0.5 g (5 mmol) of sulfuric acid and 100 g of toluene. Separately 110.2 g (1.0 mol) of 1-ethylcyclohexene, prepared by the same procedures as described in Reference Example 3, was dissolved in 100 g of toluene. The obtained solution of 1-ethylcyclohexene in toluene was dropwise added to the content in the flask over a period of about 3 hours, while the content was maintained at a reaction temperature of about 30° C. Then the content was stirred for 15 hours at the same temperature. After completion of the reaction, the residual catalyst was neutralized by adding 40.0 g (50 mmol) of a 5% aqueous sodium hydroxide solution, and the neutralized liquid was washed with an aqueous saturated sodium chloride solution. The thus-obtained organic phase was subjected to column chromatography, and further, analyzed by NMR and mass spectrometry. Thus, 68.6 g (yield: 69.9%) of the object 1-ethylcyclohexyl methacrylate was obtained.

reactant | methacrylic acid | 0.5 mol, 43.0 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sulfuric acid | 5 mmol, 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-ethylcyclohexene | 1.0 mol, 110.2 g | C(C)C1=CCCCC1 | C8H14
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 1-ethylcyclohexyl methacrylate | yield: 69.9% | C(C(=C)C)(=O)OC1(CCCCC1)CC | C12H20O2
